US06951875B2
b) 6-[2-(3,4-Dichloro-phenyl)-vinyl]-pyridine-2-carbonitrile
Following the general method described in example 2b, 2-[2-(3,4-dichloro-phenyl)-vinyl]-pyridine 1-oxide was reacted first with dimethylsulfate and then with NaCN. After extraction and crystallization the title compound was obtained as a white crystalline material. Mp. 124-125° C. (hexane), MS: m/e=274 (M+).

reactant | 2-[2-(3,4-dichloro-phenyl)-vinyl]-pyridine 1-oxide | ClC=1C=C(C=CC1Cl)C=CC1=[N+](C=CC=C1)[O-] | C13H9Cl2NO
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | [C-]#N.[Na+]
solvent | hexane | CCCCCC | C6H14
product | 6-[2-(3,4-Dichloro-phenyl)-vinyl]-pyridine-2-carbonitrile | ClC=1C=C(C=CC1Cl)C=CC1=CC=CC(=N1)C#N | C14H8Cl2N2
